US05216015
Step 1: Preparation of 3α-tert-butyldiphenylsilyloxy-17β-[(1,1-diphenyl)-1-penten-4-yl]-12α-hydroxy-5β-androstane
To a mixture of 3α, 12α-dihydroxy-17β-[(1,1-diphenyl)-1-penten-4-yl]-5β-androstane (10.2 g), imidazole (1.64 g) and 4-dimethylaminopyridine (0.256 g) in dimethylformamide (30 ml) is added tert-butylchlorodiphenylsilane (6.04 g) and the mixture stirred for about 3.5 hours and diluted with ether/hexane (1:1). The solution is washed with saturated sodium bicarbonate, dried over magnesium sulfate, filtered and concentrated in vacuo. The crude product is purified by flash chromatography in 50% ether in hexane to give the desired product.

reactant | 3α, 12α-dihydroxy-17β-[(1,1-diphenyl)-1-penten-4-yl]-5β-androstane | 10.2 g | O[C@H]1C[C@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)[C@H](C[C@@H]3[C@]2(CC1)C)O)C(CC=C(C1=CC=CC=C1)C1=CC=CC=C1)C | C36H48O2
reactant | imidazole | 1.64 g | N1C=NC=C1 | C3H4N2
reactant | tert-butylchlorodiphenylsilane | 6.04 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C16H19ClSi
catalyst | 4-dimethylaminopyridine | 0.256 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | ether hexane | CCOCC.CCCCCC
product | 3α-tert-butyldiphenylsilyloxy-17β-[(1,1-diphenyl)-1-penten-4-yl]-12α-hydroxy-5β-androstane | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)O[C@H]1C[C@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)[C@H](C[C@@H]3[C@]2(CC1)C)O)C(CC=C(C1=CC=CC=C1)C1=CC=CC=C1)C | C52H66O2Si
